US08530491B2
d) 2,4-diamino-6-ethyl-5-(3-(quinolin-4-yloxy)propoxy)pyrimidine dihydrochloride
2,4-diamino-6-ethyl-5-(3-(quinolin-4-yloxy)propoxy)pyrimidine (0.1740 g, 0.51 mmol) was suspended in methanol (1 mL) and 2 equivalents of concentrated HCl was added. The titled compound was obtained, after evaporation and trituration of the residue with acetonitrile, as an off-white crystalline solid (0.2004 g, 95%). 1H NMR (400 MHz, DMSO-d6): 1.04 (3H, t, J=7.6 Hz), 2.42 (2H, m), 2.45 (2H, t, J=7.0 Hz), 3.97 (2H, t, J=5.9 Hz), 4.72 (2H, t, J=5.9 Hz), 7.56 (2H, bs), 7.61 (1H, d, J=6.7 Hz), 7.87 (1H, t, J=7.8 Hz), 7.97 (1H, s), 8.11 (1H, ddd, J=1.0, 7.3, 8.2 Hz), 8.35-8.40 (3H, m), 9.18 (1H, d, J=6.6 Hz), 12.86 (1H, s).

reactant | 2,4-diamino-6-ethyl-5-(3-(quinolin-4-yloxy)propoxy)pyrimidine | 0.51 mmol, 0.1740 g | NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=CC=C12)CC | C18H21N5O2
reactant | HCl | 2 equivalents | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 2,4-diamino-6-ethyl-5-(3-(quinolin-4-yloxy)propoxy)pyrimidine dihydrochloride | Cl.Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=CC=NC2=CC=CC=C12)CC | InChI=1S/C18H21N5O2.2ClH/c1-2-13-16(17(19)23-18(20)22-13)25-11-5-10-24-15-8-9-21-14-7-4-3-6-12(14)15;;/h3-4,6-9H,2,5,10-11H2,1H3,(H4,19,20,22,23);2*1H
